US09029409B2
To a stirred solution 2-(5-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-2-oxopyridin-1(2H)-yl)acetic acid (0.2 g, 0.404 mmol, G.1.225) in DMF (5 mL) was added cyclopropanamine (0.046 g, 0.807 mmol, Sd Fine Chem), EDCI.HCl (0.093 g, 0.484 mmol, spectrochem), HOBT (0.093 g, 0.605 mmol, spectrochem) and DIPEA (0.157 g, 1.211 mmol, spectrochem). The reaction mixture was stirred at RT for about 12 h. The reaction mixture was diluted with ice cold water (20 mL) and the product extracted with EtOAc (2×15 mL), The organic layer was dried over sodium sulphate and evaporated under reduced pressure to afford a thick mass. Crude compound was purified by preparative TLC, eluting with 2-4% methanol in DCM to afford 6-(5-(1-(2-(cyclopropylamino)-2-oxoethyl)-6-oxo-1,6-dihydropyridin-3-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide 21 mg (9.73%) as an off white solid. 1H NMR (400 MHz, DMSO): δ 9.519-9.487 (m, 1H), 8.282-8.273 (d, J=3.6 Hz, 1H), 8.190 (s, 1H), 7.768-7.762 (d, J=2.4 Hz, 1H), 7.558-7.529 (dd, J=9.2 Hz, 1H), 7.186-7.119 (m, 2H), 6.908-6.871 (m, 1H), 6.429-6.404 (d, J=10 Hz, 1H), 5.705-5.654 (m, 1H), 4.491-4.458 (m, 4H), 3.857-3.784 (m, 4H), 3.461-3.393 (m, 1H), 2.767 (s, 3H), 2.745-2.650 (m, 1H), 0.649-0.601 (m, 2H) 0.425-0.387 (m, 2H); MS m/z=533.3 (M−H)−.

reactant | 2-(5-(3-(6-(4-fluoro-3-methoxybenzylcarbamoyl)-2-methylpyrimidin-4-yl)-4,5-dihydroisoxazol-5-yl)-2-oxopyridin-1(2H)-yl)acetic acid | 0.404 mmol, 0.2 g | FC1=C(C=C(CNC(=O)C2=CC(=NC(=N2)C)C2=NOC(C2)C=2C=CC(N(C2)CC(=O)O)=O)C=C1)OC | C24H22FN5O6
reactant | cyclopropanamine | 0.807 mmol, 0.046 g | C1(CC1)N | C3H7N
reactant | EDCI.HCl | 0.484 mmol, 0.093 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.605 mmol, 0.093 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.211 mmol, 0.157 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(5-(1-(2-(cyclopropylamino)-2-oxoethyl)-6-oxo-1,6-dihydropyridin-3-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | 21 mg, 9.73% | C1(CC1)NC(CN1C=C(C=CC1=O)C1CC(=NO1)C1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC)=O | C27H27FN6O5
